US04105768
3-(2,6-Dichlorobenzylidenehydrazino)-4-methylamino-1, 2, 4-triazolehydrochloride
A solution of 6.2 g of 4-(N-Methylacetamido)-3-[1-acetyl-2-(2,6-dichlorobenzylidene)hydrazino]-1,2,4-triazole in 50 ml of acetic acid, 50 ml of concentrated hydrochloric acid and 50 ml of water is heated at reflux overnight. The solution is evaporated and the residue is recrystallized from ethanolisopropyl ether.

reactant | 4-(N-Methylacetamido)-3-[1-acetyl-2-(2,6-dichlorobenzylidene)hydrazino]-1,2,4-triazole | 6.2 g | CN(C(C)=O)N1C(=NN=C1)N(N=CC1=C(C=CC=C1Cl)Cl)C(C)=O | C14H14Cl2N6O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 50 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
product | 3-(2,6-Dichlorobenzylidenehydrazino)-4-methylamino-1, 2, 4-triazolehydrochloride | Cl.ClC1=C(C=NNC2=NN=CN2NC)C(=CC=C1)Cl | InChI=1S/C10H10Cl2N6.ClH/c1-13-18-6-15-17-10(18)16-14-5-7-8(11)3-2-4-9(7)12;/h2-6,13H,1H3,(H,16,17);1H
